US08350090B1
(R)-3-(3-Methoxybenzyl)-4-oxocyclopent-2-enyl acetate (0.1 g, 0.38 mmol) was added to KH2PO4—H3PO4 buffer (1 ml). The mixture was added thereto Lipase derived from Pseudomonas cepacia, and 1N NaOH was slowly added to the solution at room temperature to keep the pH=7˜7.5. After 3 hours, about 10% of (R)-3-(3-methoxybenzyl)-4-oxocyclopent-2-enyl acetate remained. The reaction mixture was filtered to remove Lipase and the filtrate was extracted with EtOAc, dried over MgSO4, and evaporated. The resulting residue was purified by chromatography on a silica gel column using hexane-EtOAc as eluent to give the (R)-4-hydroxy-2-(3-methoxybenzyl)cyclopent-2-enone as yellow oil: 58 mg (yield: 70%, >99.5% ee by HPLC using a chiral column)

reactant | (R)-3-(3-Methoxybenzyl)-4-oxocyclopent-2-enyl acetate | 0.38 mmol, 0.1 g | C(C)(=O)O[C@H]1C=C(C(C1)=O)CC1=CC(=CC=C1)OC | C15H16O4
reactant | KH2PO4 H3PO4 | 1 ml | OP(=O)(O)[O-].[K+].OP(=O)(O)O
reactant | NaOH | 1N | [OH-].[Na+]
product | (R)-4-hydroxy-2-(3-methoxybenzyl)cyclopent-2-enone | yield: 70% | O[C@H]1C=C(C(C1)=O)CC1=CC(=CC=C1)OC | C13H14O3
